US07151105B2
Step 1: 4-Bromo-2-ethyl-1-methoxymethyl-benzene
To a solution of (4-bromo-2-ethyl-phenyl)-methanol (0.700 g, 3.25 mmol) in DMF (30 mL) was added NaH (0.156 g, 60% dispersion in mineral oil, 3.90 mmol) followed by Mel (0.22 mL, 3.58 mmol). The mixture was stirred for 16 hours and then partitioned between H2O and EtOAc. The aqueous layer was extracted with EtOAc, and the organic layer was washed with brine, dried over Na2SO4, and concentrated to a yellow oil. Purification by flash column chromatography (0% to 4% EtOAc in hexanes) gave the product as a clear oil (0.51 g, 69%). 1H NMR (300 MHz, CDCl3): δ 1.15 (t, J=7.6 Hz, 3 H), 2.58 (q, J=7.5 Hz, 2 H), 3.32 (s, 3 H), 4.35 (s, 2 H), 7.12 (m, 1 H), 7.24 (m, 1 H), 7.27 (d, J=2.1 Hz, 1 H).

reactant | (4-bromo-2-ethyl-phenyl)-methanol | 3.25 mmol, 0.700 g | BrC1=CC(=C(C=C1)CO)CC | C9H11BrO
reactant | NaH | 3.90 mmol, 0.156 g | [H-].[Na+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-2-ethyl-1-methoxymethyl-benzene | 0.51 g, 69% | BrC1=CC(=C(C=C1)COC)CC | C10H13BrO
